US07893056B2
To a solution of 5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione (2.7802 g, 12.92 mmol) in MeOH (65 mL) was added sodium acetate (2.12 g, 25.8 mmol) and O-methylhydroxylamine hydrochloride (2.16 g, 25.9 mmol). The mixture was stirred overnight, and then diluted with DCM (100 mL). The mixture was washed with sat. aq. NaHCO3, and the organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo to give crude (7Z)-5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione 7-(O-methyloxime) (3.4094 g, >100% crude yield) as a yellow oil. LCMS: (M+H)+: 245.1.

reactant | 5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione | 12.92 mmol, 2.7802 g | C1(=CC=CC=C1)CN1C(C2(CC2)C(C1)=O)=O | C13H13NO2
reactant | sodium acetate | 25.8 mmol, 2.12 g | C(C)(=O)[O-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 25.9 mmol, 2.16 g | Cl.CON
solvent | MeOH | 65 mL | CO | CH4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (7Z)-5-(phenylmethyl)-5-azaspiro[2.4]heptane-4,7-dione 7-(O-methyloxime) | 3.4094 g | CO\N=C\1/CN(C(C12CC2)=O)CC2=CC=CC=C2 | C14H16N2O2
